US08895596B2
Step D: 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclo-butanecarboxylic acid.
Ethyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutane carboxylate (0.046 g, 0.102 mmol) was dissolved in 1 mL of THF and treated with KOTMS (0.039 g, 0.308 mmol). The reaction mixture was stirred at ambient temperature overnight, and then diluted with EtOAc and washed with 2 N HCl. The aqueous layer was further extracted with EtOAc, and the combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated to give the title compound. LCMS: calculated for C24H18F2N2O3 420.41, observed m/e 420.9 (M+H)+ (Rt 2.07/4 min). 1H NMR (500 MHz, d6-DMSO): δ7.77 (d, 2H), 7.73, (d, 2H), 7.55-7.47 (m, 4H), 7.39 (m, 1H), 7.15 (br, 1H), 5.23 (m, 1H), 2.82-2.70 (m, 2H), 2.32-2.25 (m, 2H), 1.98 (m, 1H).

reactant | Ethyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclobutane carboxylate | 0.102 mmol, 0.046 g | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CC(C2)C(=O)OCC)C=C1F)F)C1=CC=CC=C1 | C26H22F2N2O3
reactant | KOTMS | 0.308 mmol, 0.039 g | O([K])[Si](C)(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclo-butanecarboxylic acid | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CC(C2)C(=O)O)C=C1F)F)C1=CC=CC=C1 | C24H18F2N2O3
